* Sallen-Key 2nd-order low-pass (VCVS form, gain 1.586 — Butterworth Q).
* The textbook active filter, and the fixture the roadmap's B2/B3
* post-mortem asked for: TWO visible top-level feedback arcs — C1 from
* `out` back to the R1/R2 junction `n1`, and the RA/RB divider from `out`
* back to the op-amp's inverting input `inv`.
*
* The op-amp carries a DEFINITION-LEVEL symbol (spec §4.1/§4.2) so it is
* emitted flat rather than lowered to a hierarchical sheet. That is the
* load-bearing part: `opamp_inverting` and `opamp_inverting_real` hide
* their feedback resistor behind a `.subckt` instance the flow model
* treats as directionless, which is precisely why B2/B3 measured no lever
* on them. Here the feedback is on the sheet.
*@symbol Device:R_US for=R*
*@symbol Device:C    for=C*
*@port in=input
*@port out=output

.subckt OPAMP inp inn out vcc vee ;@ symbol=Amplifier_Operational:OPAMP ;@ pinmap=inp:3,inn:2,out:1,vcc:8,vee:4
E1 out 0 inp inn 1e5
.ends

VCC vcc 0   DC  15   ;@ power=+15V
VEE vee 0   DC -15   ;@ power=-15V
VIN in  0   DC 0 AC 1     ;@ ignore

* --- the RC section; C1 is the feedback capacitor ---
R1  in  n1  10k
R2  n1  np  10k
C2  np  0   10n
C1  n1  out 10n

* --- the gain-setting feedback divider ---
RA  out inv 5k9
RB  inv 0   10k

X1  np inv out vcc vee OPAMP

.ac dec 20 10 100k
.end
